US04985595
75 ml of dimethylformamide was added to a mixture of 15.0 g of 2-chloro-N-(2-(3,4-dimethoxyphenyl)ethyl)acetamide, 9.5 g of 3-amino-N-ethylbenzamide, 8.7 g of sodium iodide and 11.6 g of calcium carbonate, and the mixture was stirred for 4.5 hours at 55° to 60° C. After cooling, an insoluble material was removed by filtration and, the filtrate was concentrated in vacuo. The residue was extracted with 500 ml of chloroform, and the extract was washed successively with a 10% sodium sulfite aqueous solution and a saturated aqueous solution of sodium chloride. The washings were extracted with 500 ml of chloroform, and the extract was added to the chloroform solution. The combined chloroform solution was dried over sodium sulfate, and the solvent was distilled off. 120 ml of 10% hydrochloric acid was added to the residue, and the mixture was washed 6 times with 30 ml of dichloroethane. The aqueous solution was made alkaline by adding sodium carbonate to form an aggluten-like material. The material was extracted with 300 ml of dichloroethane, and the extract was washed with a saturated aqueous solution of sodium chloride. The washings were extracted with 200 ml of dichloroethane. The extract was added to the above dichloroethane solution, and the mixture was dried over sodium sulfate. The solvent was distilled off, and the residue was purified by column chromatography on 390 g of silica gel using a mixture of ethyl acetate and ethanol (10:1 by volume) for elution to obtain a fraction containing a product. The solvent of the fraction was distilled off and the residue was recrystallized from a mixture of methanol and diethyl ether to give 10.0 g of 3-((2-((2-(3,4-dimethoxyphenyl)ethyl)amino)-2-oxoethyl)amino)-N-ethylbenzamide as colorless needles with m.p. 99° to 101° C.

reactant | 2-chloro-N-(2-(3,4-dimethoxyphenyl)ethyl)acetamide | 15.0 g | ClCC(=O)NCCC1=CC(=C(C=C1)OC)OC | C12H16ClNO3
reactant | 3-amino-N-ethylbenzamide | 9.5 g | NC=1C=C(C(=O)NCC)C=CC1 | C9H12N2O
reactant | sodium iodide | 8.7 g | [I-].[Na+]
reactant | calcium carbonate | 11.6 g | C([O-])([O-])=O.[Ca+2]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-((2-((2-(3,4-dimethoxyphenyl)ethyl)amino)-2-oxoethyl)amino)-N-ethylbenzamide | 10.0 g | COC=1C=C(C=CC1OC)CCNC(CNC=1C=C(C(=O)NCC)C=CC1)=O | C21H27N3O4
